US04743585
3,6-Dioxo-2-(phenylmethyl)-4-piperidinecarboxylic acid, methyl ester, 4 g (0.015 mole) was added to benzyl alcohol, 8.1 g (0.075 mole), and the mixture warmed to 170° for three hours. The mixture was cooled and the residue chromatographed using 200 g of silica gel and eluting with 500 ml of dichloromethane-methanol (98:2) to give (±)-3,6-dioxo-2-(phenylmethyl)-4-piperidinecarboxylic acid, phenylmethyl ester, 4.5 g; mp. 119°-120.5°.

reactant | 3,6-Dioxo-2-(phenylmethyl)-4-piperidinecarboxylic acid, methyl ester | O=C1C(NC(CC1C(=O)OC)=O)CC1=CC=CC=C1 | C14H15NO4
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | (±)-3,6-dioxo-2-(phenylmethyl)-4-piperidinecarboxylic acid, phenylmethyl ester | O=C1C(NC(CC1C(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C20H19NO4
